US04437878
9.3 parts by weight of 3-amino-4-methoxycarbonyl-1,5-dihydrothiophene hydrochloride, 6.0 parts by weight of triethylamine, 7.4 parts by weight of cyclohexyl isocyanate and 30 parts by weight of acetonitrile were combined, and the mixture was stirred for 3 hours at 25° C. and then evaporated down. The residue was washed with water and recrystallized from toluene. 4.5 parts by weight of N-cyclohexyl-N'-(3-methoxycarbonyl-2,5-dihydrothien-4-yl)-urea of melting point 153°-154° C. were obtained.

reactant | 3-amino-4-methoxycarbonyl-1,5-dihydrothiophene hydrochloride | Cl.NC=1CSCC1C(=O)OC
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | cyclohexyl isocyanate | C1(CCCCC1)N=C=O | C7H11NO
solvent | acetonitrile | C(C)#N | C2H3N
product | N-cyclohexyl-N'-(3-methoxycarbonyl-2,5-dihydrothien-4-yl)-urea | C1(CCCCC1)NC(=O)NC1=C(CSC1)C(=O)OC | C13H20N2O3S
